US08012964B2
Synthesis of 2-butoxy-9-[2-(3-methoxycarbonylmethylphenoxy)ethyl]-adenine
To a suspension of lithium aluminum hydride (150 mg, 4.0 mmol) in THF (15 ml) was added a solution of 2-butoxy-9-[2-(3-methoxycarbonylphenoxy)ethyl]adenine (540 mg, 1.4 mmol) obtained in Reference Example 2 in THF (5 ml) under ice-cooling, and the mixture was stirred at room temperature for 3 hours. 1N Aqueous sodium hydroxide solution was added thereto, followed by filtration through celite pad and concentration under reduced pressure. The residue was dissolved in chloroform (10 ml), and thionyl chloride (336 μl, 4.62 mmol) was added thereto at room temperature, followed by stirring at 60° C. for 10 minutes. To the reaction mixture was added 1N aqueous sodium hydroxide solution, and the mixture was diluted with water and extracted with chloroform (methanol 5%). The organic layer was washed with water and brine, dried over sodium sulfate and concentrated under reduced pressure to give chloromethyl product as a pale yellow crystal, 380 mg. To a solution of the chloromethyl product (380 mg) in DMF (10 ml) was added sodium cyanide (99 mg, 2.02 mmol) at room temperature, followed by stirring at room temperature for 1 hour. To the reaction mixture was added saturated ammonium chloride and the mixture was concentrated under reduced pressure. To the residue was added water and the mixture was extracted with chloroform (methanol 5%). The organic layer was washed with water and saturated brine, dried over sodium sulfate and concentrated under reduced pressure. To the residue were added methanol (7 ml) and 5N aqueous potassium hydroxide solution (7 ml) and the mixture was stirred at 95° C. for 3.5 hours. The reaction solution was neutralized with concentrated hydrochloric acid, and concentrated under reduced pressure. Methanol (20 ml) and concentrated sulfuric acid (0.3 ml) were added thereto, followed by stirring at 90° C. for 3.5 hours. After cooling, the resultant was concentrated under reduced pressure, and to the residue was added water. The solution was extracted with chloroform (methanol 5%). The organic layer was washed with water and saturated brine, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 160 mg (0.40 mmol) of the titled compound as a pale yellow oil. Yield: 29%.

reactant | lithium aluminum hydride | 4.0 mmol, 150 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-butoxy-9-[2-(3-methoxycarbonylphenoxy)ethyl]adenine | 1.4 mmol, 540 mg | C(CCC)OC1=NC(=C2N=CN(C2=N1)CCOC1=CC(=CC=C1)C(=O)OC)N | C19H23N5O4
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | thionyl chloride | 4.62 mmol, 336 μl | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | sodium cyanide | 2.02 mmol, 99 mg | [C-]#N.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-butoxy-9-[2-(3-methoxycarbonylmethylphenoxy)ethyl]-adenine | 0.40 mmol, 160 mg, Yield: 29% | C(CCC)OC1=NC(=C2N=CN(C2=N1)CCOC1=CC(=CC=C1)CC(=O)OC)N | C20H25N5O4
